* C:\Users\HARSHIT\Desktop\IE_LABS\simulation2_without_ic.asc
C§VC N003 0 22p
Q1 N009 N003 0 0 Q2N3707
L1 N003 N009 2.21p
R1 N004 N003 10k
C3 N004 0 100n
C10 N004 0 100µ
C1 N003 N006 220n
R2 N007 N006 10k
C2 N007 0 2.2n
R§VR N007 0 22k
R3 N001 N004 1k
Q2 N003 N009 0 0 Q2N3707
C9 N001 0 100µ
V1 N001 0 7
V2 N003 0 SFFM(0 1 100000000 1 10000)
C11 N012 N007 22µ
R5 N008 N012 1k
D1 N010 N011 1N4007
D2 N005 N010 1N4007
Q3 N011 N012 0 0 BD139
Q4 0 N011 N008 0 BD140
C12 N002 N008 330µ
R6 N002 N005 10
Q5 N001 N005 N008 0 BD139
R4 N001 N002 8
.model D D
.lib C:\Users\HARSHIT\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\HARSHIT\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc lib_files.lib
.tran 30us
.backanno
.end
